US20010036946A1
b) 1-ethyl-4-[1-(phenylmethoxycarbonyl)-4-piperidinyl]piperidine
To a solution of 18.14 g (0.061 mol) of 1-(phenylmethoxycarbonyl)-4-(4-piperidinyl)piperidine in 450 ml of a methanol/water mixture (1/1 v/v) were added, with stirring, whilst maintaining a temperature of 15 to 20°C., 10.05 g (0.152 mol) of 950 sodium cyanoborohydride and 50 mg of bromocresol purple. Then a solution of 10.57 g (0.24 mol) of acetaldehyde in 50 ml of methanol and 1N hydrochloric acid were alternately added dropwise so that the colour of the mixture changed continuously from blue to yellow. After all had been added and the reaction had finished the mixture was adjusted to pH 2 with hydrochloric acid and extracted twice with 200 ml of diethylether. The aqueous phase was then made alkaline and extracted thoroughly with dichloromethane. The combined dichloromethane extracts were dried over magnesium sulphate and evaporated down in vacuo. The colourless crystallising residue remaining was purified by column chromatography over silica gel (30-60 pm) using FM1 as eluant. Yield of colourless crystals of melting point 93-96° C.: 7.9 g (39.2% of theory) IR(KBr) 1699.2 cm−1 (C═O)

reactant | 1-(phenylmethoxycarbonyl)-4-(4-piperidinyl)piperidine | 0.061 mol, 18.14 g | C1(=CC=CC=C1)COC(=O)N1CCC(CC1)C1CCNCC1 | C18H26N2O2
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | bromocresol purple | 50 mg | CC1=C(C(=CC(=C1)C2(C3=CC=CC=C3S(=O)(=O)O2)C4=CC(=C(C(=C4)Br)O)C)Br)O | C21H16Br2O5S
reactant | acetaldehyde | 0.24 mol, 10.57 g | C(C)=O | C2H4O
solvent | methanol water | 450 ml | CO.O
solvent | methanol | 50 ml | CO | CH4O
solvent | hydrochloric acid | 1N | Cl | ClH
product | 1-ethyl-4-[1-(phenylmethoxycarbonyl)-4-piperidinyl]piperidine | C(C)N1CCC(CC1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C20H30N2O2
